US07262212B2
m-Chloroperbenzoic acid (1.6 g, 6.6 mmol) was added to a solution of 2-methyl-2-propenyl(4-chlorophenyl)carbamate (1.0 g, 4.4 mmol) in methylene chloride (20 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 4 hours. To which sodium thiosulfate aqueous solution was added and the mixture was filtered, and sodium hydrogencarbonate aqueous solution was added to the filtrate. The organic layer was separated, dried over magnesium sulfate, and concentrated under reduced pressure to afford (2-methyl-2-oxiranylmethyl)(4-chlorophenyl)carbamate (1.1 g, quantitative) as a pale yellow crystalline powder.

reactant | m-Chloroperbenzoic acid | 6.6 mmol, 1.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methyl-2-propenyl(4-chlorophenyl)carbamate | 4.4 mmol, 1.0 g | CC(CN(C([O-])=O)C1=CC=C(C=C1)Cl)=C
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (2-methyl-2-oxiranylmethyl)(4-chlorophenyl)carbamate | 1.1 g | CC1(OC1)COC(NC1=CC=C(C=C1)Cl)=O | C11H12ClNO3
